* testskeem A_ol maaramiseks

VCC vp 0 DC 9
VEE vn 0 DC -9
VIN in 0 DC 0 AC 1

R1 in inn 1k
R2 out inn 10k
RL out 0 10k

VREF inp 0 DC 0

XU1 inp inn vp vn out OP07
.include op07.txt

.ac dec 100 1 10meg

.control
reset
run

let aol_lin = vm(out)/vm(inn)
let aol_db = 20*log10(aol_lin)

meas ac aol_lin_10 find aol_lin at=10
meas ac aol_db_10  find aol_db  at=10

print aol_lin_10
print aol_db_10

set filetype=ascii
wrdata op07_aol.txt frequency aol_lin aol_db vm(out) vm(inn)

plot aol_db
.endc